US07109148B2
First, 0.4 g of sodium hydride was added to a mixture of 1.59 g of 2-chloro-3-nitropyridine, 0.95 g of methylglycolate, and 10 ml of 1,4-dioxane at 10° C. After stirring at room temperature for 2 hours, the reaction mixture was poured into ice water, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to silica gel column chromatography to give 1.5 g of 2-(methoxycarbonyl)methoxy-3-nitropyridine.

reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | 2-chloro-3-nitropyridine | 1.59 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | methylglycolate | 0.95 g | CC(C(=O)[O-])O
reactant | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-(methoxycarbonyl)methoxy-3-nitropyridine | 1.5 g | COC(=O)COC1=NC=CC=C1[N+](=O)[O-] | C8H8N2O5
